US08383644B2
(S)-3-(4-Hydroxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester (30 mg), Cu(OAc)2, (25 mg), phenyl boronic acid (32 mg) and molecular sieves suspended in 5 mL DCM. TEA (0.064 mL) added, reaction flushed with oxygen and stirred at room temperature for 20 hours. The resulting mixture poured onto EtOAc and 10% sodium carbonate. Organic layer washed 3 times with 10% sodium carbonate, dried over sodium sulfate and concentrated. Residue purified over silica (hexanes to 9:1 hexanes/EtOAc) to give (3S,8S)-3-(4-phenoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester (22 mg). LCMS (m/z): 537.

reactant | (S)-3-(4-Hydroxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | 30 mg | COC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)O)[C@@H](CC)C3=CC=CC=C3 | C28H29NO5
reactant | phenyl boronic acid | 32 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 25 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | (3S,8S)-3-(4-phenoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | 22 mg | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OC3=CC=CC=C3)[C@@H](CC)C3=CC=CC=C3 | C34H33NO5
